US08017611B2
(2S,4R)—O1-tert-butyl O2-methyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]pyrrolidine-1,2-dicarboxylate was prepared according to the procedure described in Example 26 except that caesium carbonate was used, using (2S,4S)—O1-tert-butyl O2-methyl 4-methylsulphonyloxypyrrolidine-1,2-dicarboxylate (Siddiqui et al., PCT. Int. Appl. US2007/0167426) as alkylating agent to give 442 mg of solid. NMR Spectrum: (CDCl3) 1.45 (s, 5.4H), 1.48 (s, 3.6H), 2.44-2.52 (m, 1H). 2.82-2.96 (m, 1H), 3.79 (s, 1.8H), 3.80 (s, 1.2H), 3.82-3.89 (m, 0.4H), 3.92-3.98 (m, 0.6H), 4.03-4.11 (m, 1H), 4.49-4.55 (m, 0.6H), 4.60-4.65 (m, 0.4H), 4.99-5.10 (m, 1H), 7.05 (bs, 2H), 7.35-7.42 (m, 2H), 7.59-7.63 (m, 1H), 7.68 (s, 1H), 7.74-7.78 (m, 1H), 7.81 (d, 1H), 8.35 (d, 1H), 8.40 (d, 1H) Mass spectrum: M+H+ 505 A solution of potassium hydroxide (1.249 ml, 2N) was added to (2S,4R)—O1-tert-butyl O2-methyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]pyrrolidine-1,2-dicarboxylate (420 mg) dissolved in methanol (10 ml) over a period of 10 minutes under argon. The resulting solution was stirred at 50° C. for 2 hours. The methanol was evaporated and the pH was adjusted to 5.5 with HCl 6N. The mixture was evaporated on reduce pressure. The reaction mixture was purified by preparative HPLC using a Waters X-Terra reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 ml/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness to afford (2S,4R)-4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-1-tert-butoxycarbonyl-pyrrolidine-2-carboxylic acid (195 mg) as a solid. NMR Spectrum: (DMSOd6) 1.35 (s, 5.4H), 1.39 (s, 3.6H), 2.32-2.43 (m, 1H), 2.66-2.82 (m, 1H), 3.63-3.71 (m, 1H), 3.80-3.89 (m, 1H), 4.28-4.36 (m, 1H), 4.96-5.06 (m, 1H), 7.40-7.49 (m, 2H), 7.67 (bs, 2H), 7.77-7.81 (m, 1H), 7.82-7.86 (m, 1H), 7.97 (s, 1H), 8.36 (s, 0.6H), 8.39 (s, 0.4H), 8.41-8.46 (m, 1H), 8.50-8.55 (m, 1H); Mass spectrum: M+H+ 491

reactant | potassium hydroxide | 2N, 1.249 ml | [OH-].[K+]
reactant | (2S,4R)—O1-tert-butyl O2-methyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]pyrrolidine-1,2-dicarboxylate | 420 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC)C=1OC2=C(N1)C=CC=C2 | C26H28N6O5
solvent | methanol | 10 ml | CO | CH4O
product | (2S,4R)-4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-1-tert-butoxycarbonyl-pyrrolidine-2-carboxylic acid | 195 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O)C=1OC2=C(N1)C=CC=C2 | C25H26N6O5
